US04485113
Preparation of 2-[[O-[N-Methyl-N-(2-chloromethyl-2-propanesulfenyl)carbamoyl]oximino]]-1,4-dithiane
To a solution of 1.4 g of N-methyl-N-(2-chloromethyl-2-propanesulfenyl)carbamoyl chloride and 0.966 g of 2-oximino-1,4-dithiane in 50 ml of dioxane, was added dropwise with stirring 0.76 g of triethylamine. After allowing the reaction mixture to stand at ambient temperature for 16 hours it was diluted with water and extracted into ethylacetate. The organic extract was washed with water, dried over sodium sulfate and concentrated under reduced pressure. The product was crystallized from isopropyl ether-methylene chloride solution. The weight of first crop was 1.0 g. m.p. 116°-117° C.

reactant | N-methyl-N-(2-chloromethyl-2-propanesulfenyl)carbamoyl chloride | 1.4 g | CN(C(=O)Cl)SC(C)(C)CCl | C6H11Cl2NOS
reactant | 2-oximino-1,4-dithiane | 0.966 g | N(O)=C1SCCSC1 | C4H7NOS2
reactant | triethylamine | 0.76 g | C(C)N(CC)CC | C6H15N
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
product | 2-[[O-[N-Methyl-N-(2-chloromethyl-2-propanesulfenyl)carbamoyl]oximino]]-1,4-dithiane | CN(C(=O)ON=C1SCCSC1)SC(C)(C)CCl | C10H17ClN2O2S3
